US05716954
7-Hydroxy-7-(3-nitrophenyl)-7H-furo[3,4-b]pyridin-5-one (38.65 g, 142 mmoles) was mixed with 800 mL of methanol. To this mixture was added 35 mL of anhydrous hydrazine. The resulting solution was then heated under reflux for 5 hours. After 17 hours of aging at room temperature the product was isolated by filtration. The crystalline mass was washed twice with methanol (250 mL) and dried, yielding 25.6 g of 8-(3-nitrophenyl)- pyrido[2,3-d]pyridazin-5-one.

reactant | 7-Hydroxy-7-(3-nitrophenyl)-7H-furo[3,4-b]pyridin-5-one | 142 mmoles, 38.65 g | OC1(OC(C=2C1=NC=CC2)=O)C2=CC(=CC=C2)[N+](=O)[O-] | C13H8N2O5
reactant | hydrazine | 35 mL | NN | H4N2
solvent | methanol | 800 mL | CO | CH4O
product | 8-(3-nitrophenyl)- pyrido[2,3-d]pyridazin-5-one | 25.6 g | [N+](=O)([O-])C=1C=C(C=CC1)C1=NNC(C2=C1N=CC=C2)=O | C13H8N4O3
